US06680313B2
b) 5,7-Bis(methylthio)-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
5,7-Bis(methylthio)imidazo[5,1-b]thiazole (1.66 g) was dissolved in 50 ml of THF under an argon atmosphere. The solution was cooled to −60° C. A 1.6 N n-butyllithium/n-hexane solution (5.76 ml) and 2.29 ml of tri-n-butylstannyl chloride were added dropwise in that order to the solution, and the temperature of the mixture was raised to −40° C. over a period of one hr. Ethyl acetate (100 ml) was added to the reaction solution, and the mixture was washed with 100 ml of brine. The organic layer was dried over anhydrous magnesium sulfate, and was filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to prepare 2.31 g of the title compound.

reactant | 5,7-Bis(methylthio)imidazo[5,1-b]thiazole | 1.66 g | CSC1=NC(=C2SC=CN21)SC | C7H8N2S3
reactant | n-butyllithium n-hexane | 1.6 N, 5.76 ml | C(CCC)[Li].CCCCCC
reactant | tri-n-butylstannyl chloride | 2.29 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5,7-Bis(methylthio)-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | CSC1=NC(=C2SC(=CN21)[Sn](CCCC)(CCCC)CCCC)SC | InChI=1S/C7H7N2S3.3C4H9.Sn/c1-10-5-6-9(3-4-12-6)7(8-5)11-2;3*1-3-4-2;/h3H,1-2H3;3*1,3-4H2,2H3;
